US07157447B2
N-(4-Fluoro-2-(5-methyloxazol-2-yl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide.
The title compound can be prepared from intermediate 27, 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido-[2,1-c][1,4]oxazine-2-carboxylic acid and (4-fluoro-2-(5-methyloxazol-2-yl)phenyl)methanamine. White crystals; mp 186° C. (ethyl acetate-hexane). 1HNMR 400 MHz (CDCl3) δ (ppm): 1.61 (6H, s, 2×CH3), 2.43 (3H, s, CH3), 4.02 (4H, m, 2×CH2), 4.80 (2H, d, J=6.3 Hz, NCH2), 5.25 (2H, s, OCH2), 6.82 (1H, s, CH), 7.11 (1H, m, aromatic), 7.29–7.34 (3H, m, aromatics), 7.52 (2H, m, aromatics), 7.65 (1H, dd, J=2.5 Hz and J=9.6 Hz, aromatic), 7.69 (1H, dd, J=6.1 Hz and J=8.6 Hz, aromatic), 9.32 (1H, broad t, NH). HRMS (ESI+) calculated for C28H28FN4O5 [M+H+]: 519.2044. found: 519.2024.

reactant | 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido-[2,1-c][1,4]oxazine-2-carboxylic acid | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)O | C17H18N2O5
reactant | (4-fluoro-2-(5-methyloxazol-2-yl)phenyl)methanamine | FC1=CC(=C(C=C1)CN)C=1OC(=CN1)C | C11H11FN2O
product | N-(4-Fluoro-2-(5-methyloxazol-2-yl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | FC1=CC(=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=C1)C=1OC(=CN1)C | C28H27FN4O5
